US04227000
A mixture of 2-chloro-5,6-dimethyl-3-pyridinecarboxaldehyde (16.85 g), malonic acid (11.45 g), piperidine (10 ml) and pyridine (100 ml) was heated under reflux for 1 hour and evaporated to an oil. This oil was dissolved in sodium hydroxide solution and was extracted with chloroform, the residual aqueous phase was acidified with hydrochloric acid and extracted with chloroform. The second chloroform extracts were washed with water and evaporated to give 3-(2-chloro-5,6-dimethyl-3-pyridyl)acrylic acid (18.3 g, 87%), m.p. 150°-8°. This acid was esterified using ethanol and sulphuric acid to give the ethyl ester, m.p. 85°-8°.

reactant | 2-chloro-5,6-dimethyl-3-pyridinecarboxaldehyde | 16.85 g | ClC1=NC(=C(C=C1C=O)C)C | C8H8ClNO
reactant | malonic acid | 11.45 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 10 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-chloro-5,6-dimethyl-3-pyridyl)acrylic acid | 18.3 g, 87% | ClC1=NC(=C(C=C1C=CC(=O)O)C)C | C10H10ClNO2
